US04743690
3-(4-Nitrophenyl)oxacyclopentan-2-one
A solution of 2.75 g (10 mmol) of TASF in 3 mL of acetonitrile and 3 mL of THF was added to a solution of 1.02 mL (10 mmol) of nitrobenzene and 1.93 mL (10.50 mmol) of [(oxacyclopent-2-ene-2-yl)oxy]trimethylsilane (OCS) in 12 mL of anhydrous THF at -78° C. over 10 min. The last traces of TASF from the dropping funnel were washed down with additional 5 mL of THF. The mixture was stirred for 20 hrs. at -78° C. Then, 0.460 mL (8.98 mmol) of bromine was added from a dropping funnel. The mixture was stirred at -78° C. for 15 min, and then the cold bath was removed. Stirring was continued for 1 hr. Thirty mL of freshly prepared saturated sodium bisulfite was added, and the product was extracted into four 60 mL portions of ether. Combined ether extracts were washed with saturated potassium hydrogen phosphate and sodium chloride. Concentration and chromatography on silica yielded two products identified as the ortho and para addition products. The ortho-adduct yielded 0.660 g (32%) of product which had a melting point of 112°-117° C. (dec). The para-adduct yielded 0.282 g (14%) of product which had a melting point of 76° to 78° C. Both the o- and p-products were analyzed by ultraviolet absorption, infrared spectroscopy, nuclear magnetic resonance spectroscopy, and mass spectrometry.

reactant | TASF | 10 mmol, 2.75 g | CN(C)[S+](N(C)C)N(C)C.C[Si-](C)(C)(F)F
reactant | nitrobenzene | 10 mmol, 1.02 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | [(oxacyclopent-2-ene-2-yl)oxy]trimethylsilane | 10.50 mmol, 1.93 mL | O1C(=CCC1)O[Si](C)(C)C | C7H14O2Si
reactant | bromine | 8.98 mmol, 0.460 mL | BrBr | Br2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 3-(4-Nitrophenyl)oxacyclopentan-2-one | 0.660 g, 32% | [N+](=O)([O-])C1=CC=C(C=C1)C1C(OCC1)=O | C10H9NO4
